US07105554B2
3-(1-Phenylethoxy)-4-(2-phenylethoxy)-benzaldehyde
(1-Bromoethyl)benzene (0.56 mL, 4.13 mmol, 2 eq) was added to a stirred solution of 3-hydroxy-4-(2-phenylethoxy)-benzaldehyde (500 mg, 2.06 mmol, 1 eq) and cesium carbonate (672 mg, 2.06 mmol, 1 eq) in N,N-dimethylformamide (8 mL). The solution was stirred overnight and then diluted with ethyl acetate (50 mL). The organic solution was washed with 1M HCl (2×100 mL), and brine (100 mL), dried over sodium sulfate and evaporated. The residue was purified by chromatography on silica gel and elution with petroleum ether:ethyl acetate (6:1) gave the product as a colourless oil (680 mg, 95%). RF (petroleum ether:ethyl actetate, 4:1) 0.51. 1H NMR (CDCl3) δ 9.72 (s, 1H, O═C—H), 6.93 (d, 1H, J 7.9 Hz, ArH), 5.38 (q, 1H, J 6.4 Hz, CHCH3Ph), 4.33 (m, 2H, CH2CH2Ph), 3.21 (t, 2H, J 6.8 Hz, CH2CH2Ph), 1.67 (d, 3H, J 6.4 Hz, CHCH3Ph).

reactant | (1-Bromoethyl)benzene | 4.13 mmol, 0.56 mL, 2 eq | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | 3-hydroxy-4-(2-phenylethoxy)-benzaldehyde | 2.06 mmol, 500 mg, 1 eq | OC=1C=C(C=O)C=CC1OCCC1=CC=CC=C1 | C15H14O3
reactant | cesium carbonate | 2.06 mmol, 672 mg, 1 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-(1-Phenylethoxy)-4-(2-phenylethoxy)-benzaldehyde | 680 mg, 95% | C1(=CC=CC=C1)C(C)OC=1C=C(C=O)C=CC1OCCC1=CC=CC=C1 | C23H22O3
